*====================================
* CLC109 Macromodel Net List--- Subcircuit Format (MMD.06)
* Comlinear Corporation
*
*    This is a Low-Power, Wideband, Closed-Loop Buffer
*
* Version 1, Rev. A, Date 05-05-94, by KEB
*
* Connections:  Input
*               | Output
*               | | +Vcc
*               | | | -Vee
*               | | | |
.SUBCKT CLC109  4 8 1 5
*Pinout: In Out V+ V-
*
* INPUT STAGE
*
F1 4 0 POLY(2) V3 V4 0 1.00 1.00
C1 4 0 1.00P
E1 12 4 POLY(2) 44 0 45 0 -1.00M 1.00 1.00
*
R1 1 10 300
V1 10 11 750M
C2 11 31 800F
C3 11 20 800F
Q1 11 12 22 QINN
*
Q2 13 12 20 QINP
C4 13 35 400F
C5 13 22 400F
V2 13 14 750M
R2 14 5 300
*
G1 1 20 POLY(2) 1 5 1 10 -136U 90.9U 3.30M
C6 20 0 1.20P
D1 20 21 DX
D2 21 22 DX
C7 22 0 1.20P
G2 22 5 POLY(2) 1 5 14 5 -136U 90.9U 3.30M
*
G3 1 31 POLY(2) 1 5 1 10 -136U 90.9U 3.30M
E2 1 30 POLY(1) 1 5 514M 28.7M
D3 31 30 DOR
Q4 31 8 22 QINN
Q3 35 8 20 QINP
D6 36 35 DOR
E3 36 5 POLY(1) 1 5 514M 28.7M
G4 35 5 POLY(2) 1 5 14 5 -136U 90.9U 3.30M
*
* OUTPUT STAGE
*
R3 31 32 50.0
D4 32 33 DX
C8 32 0 600F
Q5 1 32 8 QOUTN
*
C9 8 0 1.00P
*
Q6 5 34 8 QOUTP
C10 34 0 1.20P
D5 33 34 DX
R4 34 35 50.0
*
* NOISE BLOCKS
*
G5 41 40 POLY(1) 1 5 -10.2N 6.79N
V3 42 0 3.00
Q7 42 40 0 QNN
Q8 43 41 0 QNP
V4 0 43 3.00
*
G6 45 44 POLY(1) 1 5 -13.9U 9.29U
D9 44 0 DN
D10 0 45 DN
*
* MODELS
*
.MODEL DN D IS=0.166F KF=3.48F AF=1.00
.MODEL DOR D TT=100N
.MODEL DX D IS=1.75E-16 RS=1.00
.MODEL QNN NPN IS=1.00E-15 BF=1.00 KF=1.47F AF=0.66
.MODEL QNP PNP IS=1.00E-15 BF=1.00 KF=1.47F AF=0.66
*
.MODEL QINN NPN
+ IS =1.060E-16 BF =3.239E+02  NF =1.000E+00 VAF=8.457E+01
+ IKF=1.231E-02 ISE=1.478E-17  NE =1.197E+00 BR =3.467E+01
+ NR =1.000E+00 VAR=1.696E+00  IKR=1.982E-02 ISC=1.097E-19
+ NC =1.700E+00 RB =1.359E+02  IRB=0.000E+00 RBM=3.012E+01
+ RE =5.112E+01 RC =2.069E+01  CJE=7.941E-14 VJE=7.973E-01
+ MJE=4.950E-01 TF =2.035E-11  XTF=1.873E+01 VTF=2.825E+00
+ ITF=2.978E-02 PTF=0.000E+00  CJC=1.720E-13 VJC=8.046E-01
+ MJC=4.931E-01 XCJC=1.130E-01 TR =3.564E-10 CJS=3.938E-13
+ VJS=5.723E-01 MJS=4.105E-01  KF =0.000E-12 AF =1.000E+00
+ FC =9.765E-01
*
.MODEL QOUTN NPN
+ IS =7.822E-16 BF =3.239E+02  NF =1.000E+00 VAF=8.457E+01
+ IKF=9.079E-02 ISE=1.090E-16  NE =1.197E+00 BR =3.960E+01
+ NR =1.000E+00 VAR=1.696E+00  IKR=1.462E-01 ISC=5.656E-19
+ NC =1.700E+00 RB =1.843E+01  IRB=0.000E+00 RBM=4.083E+00
+ RE =1.522E-01 RC =6.141E+00  CJE=5.858E-13 VJE=7.973E-01
+ MJE=4.950E-01 TF =1.874E-11  XTF=1.873E+01 VTF=2.825E+00
+ ITF=2.196E-01 PTF=0.000E+00  CJC=5.143E-13 VJC=8.046E-01
+ MJC=4.931E-01 XCJC=1.709E-01 TR =1.069E-09 CJS=8.567E-13
+ VJS=5.723E-01 MJS=4.105E-01  KF =0.000E+00 AF =1.000E+00
+ FC =9.765E-01
*
.MODEL QINP PNP
+ IS =6.431E-17 BF =7.165E+01  NF =1.000E+00 VAF=3.439E+01
+ IKF=9.408E-03 ISE=3.190E-16  NE =1.366E+00 BR =1.712E+01
+ NR =1.000E+00 VAR=1.805E+00  IKR=6.606E-02 ISC=1.882E-18
+ NC =1.634E+00 RB =5.752E+01  IRB=0.000E+00 RBM=1.514E+01
+ RE =5.122E+01 RC =2.925E+01  CJE=7.941E-14 VJE=7.975E-01
+ MJE=5.000E-01 TF =3.253E-11  XTF=5.386E+00 VTF=2.713E+00
+ ITF=2.542E-02 PTF=0.000E+00  CJC=2.725E-13 VJC=7.130E-01
+ MJC=4.200E-01 XCJC=1.130E-01 TR =6.500E-11 CJS=7.417E-13
+ VJS=6.691E-01 MJS=3.950E-01  KF =0.000E-12 AF =1.000E+00
+ FC =8.803E-01
*
.MODEL QOUTP PNP
+ IS =4.744E-16 BF =7.165E+01  NF =1.000E+00 VAF=3.439E+01
+ IKF=6.940E-02 ISE=2.353E-15  NE =1.366E+00 BR =1.948E+01
+ NR =1.000E+00 VAR=1.805E+00  IKR=4.873E-01 ISC=1.322E-17
+ NC =1.634E+00 RB =7.797E+00  IRB=0.000E+00 RBM=2.052E+00
+ RE =1.659E-01 RC =1.037E+01  CJE=5.858E-13 VJE=7.975E-01
+ MJE=5.000E-01 TF =3.073E-11  XTF=5.386E+00 VTF=2.713E+00
+ ITF=1.875E-01 PTF=0.000E+00  CJC=8.147E-13 VJC=7.130E-01
+ MJC=4.200E-01 XCJC=1.709E-01 TR =2.119E-09 CJS=1.364E-12
+ VJS=6.691E-01 MJS=3.950E-01  KF =0.000E+00 AF =1.000E+00
+ FC =8.803E-01
*
.ENDS CLC109

*====================================
* CLC111 Macromodel Net List--- Subcircuit Format (MMD.06)
* Comlinear Corporation
*

*    This is a Very Wideband, Ultra-High Slew Rate, Closed-Loop Buffer
*
* Version 1, Rev. A, Date 05-18-94, by KEB
*
* Connections:  Input
*               | Output
*               | | +Vcc
*               | | | -Vee
*               | | | |
.SUBCKT CLC111  4 8 1 5
*Pinout: In Out V+ V-
*
* SUPPLIES
*
G5 1 5 POLY(1) 1 5 -273U 142U
*
* INPUT STAGE
*
F1 4 0 POLY(2) V3 V4 0 1.00 1.00
C2 4 0 1.00P
E1 12 4 POLY(2) 44 0 45 0 0 1.00 1.00
*
R1 1 10 150
V1 10 11 750M
C1 1 11 4.32P
C4 11 31 35.0F
C5 11 20 35.0F
Q1 11 12 22 QINN
*
Q2 13 12 20 QINP
C7 13 35 20.0F
C8 13 22 20.0F
C3 13 5 1.89P
V2 13 14 750M
R2 14 5 150
*
G1 1 20 POLY(2) 1 5 1 10 -722U 376U 17.0M
C6 20 0 670F
D1 20 31 DX
D2 20 21 DX
D3 21 22 DX
D4 35 22 DX
C9 22 0 640F
G2 22 5 POLY(2) 1 5 14 5 -722U 376U 17.0M
*
G3 1 31 POLY(2) 1 5 1 10 -510U 265U 12.0M
E2 1 30 POLY(1) 1 5 514M 28.7M
D5 31 30 DOR
Q4 31 8 22 QINN
Q3 35 8 20 QINP
D8 36 35 DOR
E3 36 5 POLY(1) 1 5 514M 28.7M
G4 35 5 POLY(2) 1 5 14 5 -510U 265U 12.0M
*
* OUTPUT STAGE
*
R3 31 32 25.0
D6 32 33 DX 2.00
C10 32 0 850F
Q5 1 32 8 QOUTN
*
C11 8 0 1.00P
*
Q6 5 34 8 QOUTP
C12 34 0 770F
D7 33 34 DX 2.00
R4 34 35 25.0
*
* NOISE BLOCKS
*
G6 41 40 POLY(1) 1 5 -2.12U 1.11U
V3 42 0 3.00
Q7 42 40 0 QNN
Q8 43 41 0 QNP
V4 0 43 3.00
*
I1 45 44 DC 49.6U
D9 44 0 DN
D10 0 45 DN
*
* MODELS
*
.MODEL DN D IS=0.166F KF=17.5F AF=1.00
.MODEL DOR D TT=100N
.MODEL DX D IS=2.20E-16 RS=1.00 TT=2.60E-11
.MODEL QNN NPN IS=1.00F BF=100M KF=1.37E-16 AF=0.265
.MODEL QNP PNP IS=1.00F BF=100M KF=1.37E-16 AF=0.265
*
.MODEL QINN NPN
+ IS =2.121E-16 BF =3.239E+02  NF =1.000E+00 VAF=8.457E+01
+ IKF=2.462E-02 ISE=2.956E-17  NE =1.197E+00 BR =3.719E+01
+ NR =1.000E+00 VAR=1.696E+00  IKR=3.964E-02 ISC=1.835E-19
+ NC =1.700E+00 RB =6.796E+01  IRB=0.000E+00 RBM=1.506E+01
+ RE =1.256E+02 RC =2.645E+01  CJE=1.588E-13 VJE=7.973E-01
+ MJE=4.950E-01 TF =1.948E-11  XTF=1.873E+01 VTF=2.825E+00
+ ITF=5.955E-02 PTF=0.000E+00  CJC=1.720E-13 VJC=8.046E-01
+ MJC=4.931E-01 XCJC=1.386E-01 TR =4.212E-10 CJS=3.938E-13
+ VJS=5.723E-01 MJS=4.105E-01  KF =0.000E+00 AF =1.000E+00
+ FC =9.765E-01
*
.MODEL QOUTN NPN
+ IS =1.880E-15 BF =3.239E+02  NF =1.000E+00 VAF=8.457E+01
+ IKF=2.182E-01 ISE=2.620E-16  NE =1.197E+00 BR =3.971E+01
+ NR =1.000E+00 VAR=1.696E+00  IKR=3.513E-01 ISC=1.348E-18
+ NC =1.700E+00 RB =7.668E+00  IRB=0.000E+00 RBM=1.699E+00
+ RE =1.006E+01 RC =3.738E+00  CJE=1.408E-12 VJE=7.973E-01
+ MJE=4.950E-01 TF =1.871E-11  XTF=1.873E+01 VTF=2.825E+00
+ ITF=5.278E-01 PTF=0.000E+00  CJC=1.224E-12 VJC=8.046E-01
+ MJC=4.931E-01 XCJC=1.726E-01 TR =1.296E-09 CJS=1.496E-12
+ VJS=5.723E-01 MJS=4.105E-01  KF =0.000E+00 AF =1.000E+00
+ FC =9.765E-01
*
.MODEL QINP PNP
+ IS =1.286E-16 BF =7.165E+01  NF =1.000E+00 VAF=3.439E+01
+ IKF=1.882E-02 ISE=6.380E-16  NE =1.366E+00 BR =1.833E+01
+ NR =1.000E+00 VAR=1.805E+00  IKR=1.321E-01 ISC=3.666E-18
+ NC =1.634E+00 RB =2.876E+01  IRB=0.000E+00 RBM=7.568E+00
+ RE =1.256E+02 RC =3.739E+01  CJE=1.588E-13 VJE=7.975E-01
+ MJE=5.000E-01 TF =3.156E-11  XTF=5.386E+00 VTF=2.713E+00
+ ITF=5.084E-02 PTF=0.000E+00  CJC=2.725E-13 VJC=7.130E-01
+ MJC=4.200E-01 XCJC=1.385E-01 TR =1.096E-09 CJS=7.417E-13
+ VJS=6.691E-01 MJS=3.950E-01  KF =0.000E+00 AF =1.000E+00
+ FC =8.803E-01
*
.MODEL QOUTP PNP
+ IS =1.140E-15 BF =7.165E+01  NF =1.000E+00 VAF=3.439E+01
+ IKF=1.668E-01 ISE=5.655E-15  NE =1.366E+00 BR =1.953E+01
+ NR =1.000E+00 VAR=1.805E+00  IKR=1.171E+00 ISC=3.173E-17
+ NC =1.634E+00 RB =3.245E+00  IRB=0.000E+00 RBM=8.539E-01
+ RE =1.007E+01 RC =6.213E+00  CJE=1.408E-12 VJE=7.975E-01
+ MJE=5.000E-01 TF =3.070E-11  XTF=5.386E+00 VTF=2.713E+00
+ ITF=4.506E-01 PTF=0.000E+00  CJC=1.939E-12 VJC=7.130E-01
+ MJC=4.200E-01 XCJC=1.726E-01 TR =2.704E-09 CJS=2.351E-12
+ VJS=6.691E-01 MJS=3.950E-01  KF =0.000E+00 AF =1.000E+00
+ FC =8.803E-01
*
.ENDS CLC111

*====================================================
* CLC522 Macromodel Net List--- Subcircuit Format (MMD.06)
*
*   This is a Monolithic Wide band Variable Gain Amplifier.
*
* Version 1, Rev. B, Date 02-16-93, By KEB
*
* Connections: +Vcc
*              |  Vg
*              |  |  Non-Inverting Input
*              |  |  |  RG+
*              |  |  |  |  RG-
*              |  |  |  |  |  Inverting Input
*              |  |  |  |  |  |  -Vee
*              |  |  |  |  |  |  |  Vref
*              |  |  |  |  |  |  |  |  Vout
*              |  |  |  |  |  |  |  |  |   I-
*              |  |  |  |  |  |  |  |  |   |
.SUBCKT CLC522 1  2  3  4  5  6  7  9  10  12
*Pinout: V+ Vg In+ Rg+ Rg- In- V- Vref Vout I-
*
*   Other pins on 14-pin DIP:
*      8  = -Vee
*      11 = Gnd
*      13 = +Vcc
*      14 = +Vcc
*
* SIGNAL INPUT STAGE
*
V3 1 24 3.30
Q2 24 25 26 QINN
E1 3 25 POLY(2) 61 0 62 0 1.00M 3.67 3.67
C2 3 0 1.00P
C3 3 12 4.3F
R3 26 7 3.535K
V4 1 27 3.30
Q3 27 6 28 QINN
C5 6 0 1.00P
C4 6 12 5.6F
R4 28 7 3.465K
*
E2 29 0 POLY(1) 26 0 0 1.0001
G1 29 30 POLY(1) 29 30 0 0.667
L1 30 4 30N
R5 30 4 150
R6 4 0 10MEG
C6 4 0 1.00P
C7 4 5 500F
*
E3 31 0 POLY(1) 28 0 0 0.9999
G2 31 32 POLY(2) 31 32 35 34 0 1.000 3.187M
R7 32 0 10MEG
G3 32 33 POLY(1) 32 33 0 2.000
L2 33 5 30N
R8 33 5 150
R9 5 0 10MEG
C8 5 0 1.00P
*
E4 34 0 POLY(1) 31 32 0 313.8
R10 34 35 10.0
D1 35 36 DZ
V5 36 0 -465M
D2 37 35 DZ
V6 37 0 465M
*
* GAIN INPUT
*
V1 1 20 2.80
R1 2 21 50.0
C1 2 0 1.00P
Q1 20 21 22 QINN
R2 22 23 770
V2 23 7 2.61
*
E5 38 0 POLY(1) 22 0 71.20 98.00
R11 38 39 10.0
D3 39 40 DZ
V7 40 0 93.50
D4 41 39 DZ
V8 41 0 -105.00
*
* MULTIPLIER STAGE
*
V9 1 42 2.80
D5 42 43 DZ
C9 43 0 250F
G4 43 7 POLY(1) 39 0 552.0U 5.520U 250P
V10 1 44 2.80
D6 44 45 DZ
C10 45 0 250F
G5 45 7 POLY(1) 39 0 552.0U -5.520U -250P
*
R12 1 46 240
C11 46 0 450F
C12 46 49 210F
R14 49 0 40.0
C13 49 12 210F
Q4 46 45 47 QMULT 2.00
Q5 1 43 47 QMULT 2.00
C17 47 0 250F
G6 47 7 POLY(4) 1 7 29 30 63 0 64 0 
+ -139.4U 185.8U 666.7M 15.0M 15.0M
*
R13 1 48 240
C14 48 0 450F
C15 48 12 210F
C16 12 0 1.00P
Q6 48 45 50 QMULT 2.00
Q7 1 43 50 QMULT 2.00
C18 50 0 250F
G7 50 7 POLY(4) 1 7 32 33 65 0 66 0 
+ -139.4U 185.8U 2.000 15.0M 15.0M
G8 1 12 POLY(4) 1 46 1 48 67 0 68 0 
+ 0 -4.167M 4.167M 22.4M 22.4M
*
* AMPLIFIER INPUT STAGE
*
R17 1 54 8.00K
D8 54 55 DZ
R18 9 55 50.0
C22 9 0 1.00P
Q8 51 54 12 QINN
*
D9 55 56 DZ
R19 56 7 8.00K
Q9 52 56 12 QINP
*
* AMPLIFIER GAIN STAGE
*
R15 1 51 497
C19 51 58 250F
C20 51 0 500F
C21 51 10 100F
G9 1 58 POLY(1) 1 51 0 8.048M
V11 1 53 1.60
D7 58 53 DX
G11 1 59 POLY(1) 1 51 0 11.50M
C27 59 0 500F
*
R16 52 7 497
C25 52 58 130F
C24 52 0 250F
C23 52 10 100F
G10 58 7 POLY(1) 52 7 0 8.048M
D10 57 58 DX
V12 57 7 1.60
G12 60 7 POLY(1) 52 7 0 11.50M
C28 60 0 250F
*
* AMPLIFIER OUTPUT STAGE
*
R20 58 0 250K
C26 58 0 1.50P
Q10 7 58 59 QOUTP1
Q11 1 58 60 QOUTN1
Q12 1 59 10 QOUTN2
Q13 7 60 10 QOUTP2
C29 10 0 1.60P
*
* POWER SUPPLY BLOCK
*
G13 1 7 POLY(1) 1 7 -7.00M 3.00M
*
* NOISE BLOCKS
*
I1 62 61 DC 846U
D11 61 0 DN
D12 0 62 DN
*
I2 64 63 DC 846U
D13 63 0 DN
D14 0 64 DN
*
I3 66 65 DC 846U
D15 65 0 DN
D16 0 66 DN
*
I4 68 67 DC 846U
D17 67 0 DN
D18 0 68 DN
*
* MODELS
*
.MODEL DN D IS=0.166F RS=15.2 KF=100F AF=1.00
.MODEL DX D TT=200N
.MODEL DZ D IS=0.166F
*
.MODEL QINN NPN
+ IS =0.166F    BF =3.239E+02  NF =1.000E+00  VAF=84.6
+ IKF=2.462E-02 ISE=2.956E-17  NE =1.197E+00  BR =3.719E+01
+ NR =1.000E+00 VAR=1.696E+00  IKR=3.964E-02  ISC=1.835E-19
+ NC =1.700E+00 RB =68         IRB=0.000E+00  RBM=15.1
+ RC =2.645E+01 CJE=1.632E-13  VJE=7.973E-01
+ MJE=4.950E-01 TF =1.948E-11  XTF=1.873E+01  VTF=2.825E+00
+ ITF=5.955E-02 PTF=0.000E+00  CJC=1.720E-13  VJC=8.046E-01
+ MJC=4.931E-01 XCJC=171M       TR =4.212E-10  CJS=629F
+ MJS=0         KF =100F       AF =1.000E+00
+ FC =9.765E-01
*
.MODEL QMULT NPN
+ IS =0.166F    BF =3.239E+02 NF =1.000E+00 BR =3.719E+01
+ NR =1.000E+00 RB =68        IRB=0.000E+00 RBM=15.1
+ RC =2.645E+01 CJE=1.632E-13 VJE=7.973E-01
+ MJE=4.950E-01 TF =1.948E-11 XTF=1.873E+01 VTF=2.825E+00
+ ITF=5.955E-02 PTF=0.000E+00 CJC=1.720E-13 VJC=8.046E-01
+ MJC=4.931E-01 XCJC=171M     TR =4.212E-10 CJS=629F
+ MJS=0         KF =100F      AF =1.000E+00 FC =9.765E-01
*
.MODEL QOUTN1 NPN
+ IS =7.822E-16 BF =3.239E+02  NF =1.000E+00 VAF=8.457E+01
+ IKF=9.079E-02 ISE=1.090E-16  NE =1.197E+00 BR =3.960E+01
+ NR =1.000E+00 VAR=1.696E+00  IKR=1.462E-01 ISC=5.656E-19
+ NC =1.700E+00 RB =1.843E+01  IRB=0.000E+00 RBM=4.083E+00
+ RC =6.141E+00 CJE=5.858E-13  VJE=7.973E-01
+ MJE=4.950E-01 TF =1.874E-11  XTF=1.873E+01 VTF=2.825E+00
+ ITF=2.196E-01 PTF=0.000E+00  CJC=5.143E-13 VJC=8.046E-01
+ MJC=4.931E-01 XCJC=1.709E-01 TR =1.069E-09 CJS=8.567E-13
+ VJS=5.723E-01 MJS=4.105E-01  KF =100F      AF =1.000E+00
+ FC =9.765E-01
*
.MODEL QOUTN2 NPN
+ IS =1.880E-15 BF =3.239E+02 NF =1.000E+00 VAF=8.457E+01
+ IKF=2.182E-01 ISE=2.620E-16 NE =1.197E+00 BR =3.971E+01
+ NR =1.000E+00 VAR=1.696E+00 IKR=3.513E-01 ISC=1.348E-18
+ NC =1.700E+00 RB =57.7      IRB=0.000E+00 RBM=51.7
+ RC =3.738E+00 CJE=1.408E-12 VJE=7.973E-01
+ MJE=4.950E-01 TF =1.871E-11 XTF=1.873E+01 VTF=2.825E+00
+ ITF=5.278E-01 PTF=0.000E+00 CJC=1.224E-12 VJC=8.046E-01
+ MJC=4.931E-01 XCJC=800M     TR =1.296E-09 CJS=1.496E-12
+ MJS=4.105E-01 KF =100F      AF =1.000E+00
+ FC =9.765E-01
*
.MODEL QINP PNP
+ IS =0.166F    BF =7.165E+01 NF =1.000E+00 VAF=3.439E+01
+ IKF=1.882E-02 ISE=6.380E-16 NE =1.366E+00 BR =1.833E+01
+ NR =1.000E+00 VAR=1.805E+00 IKR=1.321E-01 ISC=3.666E-18
+ NC =1.634E+00 RB =28.8      IRB=0.000E+00 RBM=7.6
+ RC =3.739E+01 CJE=1.588E-13 VJE=7.975E-01
+ MJE=5.000E-01 TF =3.156E-11 XTF=5.386E+00 VTF=2.713E+00
+ ITF=5.084E-02 PTF=0.000E+00 CJC=2.725E-13 VJC=7.130E-01
+ MJC=4.200E-01 XCJC=170M     TR =7.500E-11 CJS=515F
+ MJS=0         KF =100F      AF =1.000E+00 FC =8.803E-01
*
.MODEL QOUTP1 PNP
+ IS =4.744E-16 BF =7.165E+01  NF =1.000E+00 VAF=3.439E+01
+ IKF=6.940E-02 ISE=2.353E-15  NE =1.366E+00 BR =1.948E+01
+ NR =1.000E+00 VAR=1.805E+00  IKR=4.873E-01 ISC=1.322E-17
+ NC =1.634E+00 RB =7.797E+00  IRB=0.000E+00 RBM=2.052E+00
+ RC =1.037E+01 CJE=5.858E-13  VJE=7.975E-01
+ MJE=5.000E-01 TF =3.073E-11  XTF=5.386E+00 VTF=2.713E+00
+ ITF=1.875E-01 PTF=0.000E+00  CJC=8.147E-13 VJC=7.130E-01
+ MJC=4.200E-01 XCJC=1.709E-01 TR =1.450E-10 CJS=1.364E-12
+ VJS=6.691E-01 MJS=3.950E-01  KF =100F      AF =1.000E+00
+ FC =8.803E-01
*
.MODEL QOUTP2 PNP
+ IS =1.140E-15 BF =7.165E+01 NF =1.000E+00 VAF=3.439E+01
+ IKF=1.668E-01 ISE=5.655E-15 NE =1.366E+00 BR =1.953E+01
+ NR =1.000E+00 VAR=1.805E+00 IKR=1.171E+00 ISC=3.173E-17
+ NC =1.634E+00 RB =53.2      IRB=0.000E+00 RBM=50.9
+ RC =6.213E+00 CJE=1.408E-12 VJE=7.975E-01
+ MJE=5.000E-01 TF =3.070E-11 XTF=5.386E+00 VTF=2.713E+00
+ ITF=4.506E-01 PTF=0.000E+00 CJC=1.939E-12 VJC=7.130E-01
+ MJC=4.200E-01 XCJC=900M     TR =1.850E-10 CJS=2.351E-12
+ MJS=3.950E-01 KF =100F      AF =1.000E+00
+ FC =8.803E-01
*
.ENDS CLC522

*====================================================
* CLC532 Macromodel Net List--- Subcircuit Format (MMD.06)
*
*   This is a High Speed 2:1 Analog Multiplexer with fast
*   12-bit settling (0.01% in 17nS), low noise, low distortion
*   and adjustable noise bandwidth.
*
* Version 1, Rev. A, Date 03-16-93, By KEB
*
* Connections: IN_A
*               | IN_B
*               |   | DGND
*               |   |   | DREF
*               |   |   |   | SEL
*               |   |   |   |  | V_EE
*               |   |   |   |  |   | COMP_2
*               |   |   |   |  |   |    |  V_OUT
*               |   |   |   |  |   |    |    |  COMP_1
*               |   |   |   |  |   |    |    |    |   V_CC
*               |   |   |   |  |   |    |    |    |    |
.SUBCKT CLC532  2   4   5   6  7   8   10   11   12   13
*Pinout: Ina Inb Dgnd Dref Sel V- Comp2 Vout Comp1 V+
*
*   Additional nodes not used in the macromodel:
*       1 = GND
*       3 = GND
*       9 = V_EE
*      14 = V_CC
*
* CHANNEL SELECT
R1 13 20 208
L1 20 21 215.5N
C1 21 13 18.28P
G2 0 31 POLY(1) 13 21 0 1.000
R5 31 0 1.00
L3 31 32 1.427N
C3 32 0 2.197N
*
V1 20 22 1.50
G1 7 0 POLY(1) 27 30 0 64.0M
R2 7 23 50.0
Q1 22 23 24 QINN
*
R3 13 25 208
L2 25 26 215.5N
C2 26 13 18.28P
G3 0 33 POLY(1) 13 26 0 1.000
R6 33 0 1.00
L4 33 34 1.427N
C4 34 0 2.197N
*
Q2 25 27 24 QINN
R4 27 30 50.0
E1 13 28 POLY(1) 13 35 0 1.000
D1 28 30 DZ
E2 13 29 POLY(1) 13 36 0 1.000
D2 29 30 DZ
R11 30 8 6.20K
*
I1 24 8 DC 3.14M
*
* DREF SETTING BLOCK
R7 5 35 1.00K
D3 35 36 DZ
*
R8 36 6 2.30K
R9 6 0 10.0MEG
*
V2 36 37 750M
R10 37 8 5.00K
*
* INPUT A
G4 2 0 POLY(3) 2 0 52 0 53 0 -50.0U 5.00U 3.00M 3.00M
C5 2 0 1.00P
*
E3 38 0 POLY(4) 2 0 44 0 54 0 55 0 0 1.000 10.00M 1.715 1.715
R12 38 0 1.00K
*
E4 39 0 POLY(1) 4 0 0 100.0
R13 39 40 10.0
L5 40 41 3.32N
R14 41 0 417M
R15 40 42 1.00K
L6 42 43 332N
R16 43 0 41.7
R17 42 44 100K
L7 44 0 31.8U
*
* INPUT B
G5 4 0 POLY(3) 4 0 52 0 53 0 -52.0U 5.00U 3.00M 3.00M
C6 4 0 1.00P
*
E5 45 0 POLY(4) 4 0 51 0 54 0 55 0 200U 1.000 10.00M 1.715 1.715
R18 45 0 1.00K
*
E6 46 0 POLY(1) 2 0 0 100.0
R19 46 47 10.0
L8 47 48 4.32N
R20 48 0 334M
R21 47 49 1.00K
L9 49 50 432N
R22 50 0 33.4
R23 49 51 100K
L10 51 0 39.8U
*
* NOISE BLOCKS
I2 53 52 DC 846.0U
D4 52 0 DN1
D5 0 53 DN1
*
I3 55 54 DC 846.0U
D6 54 0 DN2
D7 0 55 DN2
*
* POWER SUPPLY CURRENT ADJUSTMENT
G6 13 8 POLY(1) 13 8 -14.8M 2.70M
*
* BUFFER
E7 57 0 POLY(4) 32 0 34 0 45 0 38 0
+ 0 0 0 0 0 0 0 0 1.538 0 1.538
R25 57 58 50.0
V3 56 0 2.50
D8 58 56 DX
V4 59 0 -2.50
D9 59 58 DX
*
Q3 60 58 61 QINN 2.00
R27 61 62 57.0
Q5 12 67 66 QINN 2.00
R29 62 66 57.0
G8 62 8 POLY(2) 62 8 13 8 -439.0U 10.0U 302.5U
C8 62 0 2.00P
*
Q4 65 58 64 QINP 2.00
R28 64 63 57.0
Q6 10 67 68 QINP 2.00
R30 68 63 57.0
G7 13 63 POLY(2) 13 63 13 8 -439.0U 10.0U 302.5U
C7 63 0 2.00P
*
R24 13 60 136
C9 60 0 1.00P
C10 60 12 125F
C11 12 0 1.75P
G9 13 12 POLY(3) 13 12 13 8 13 60 -236U 10N 83.33U 7.353M
*
R26 65 8 136
C12 65 0 2.00P
C13 65 10 250F
C14 10 0 2.50P
G10 10 8 POLY(3) 10 8 13 8 65 8 -236U 10N 83.33U 7.353M
*
R31 12 69 50.0
D11 69 70 DY
Q7 13 69 71 QOUTN
*
R32 67 71 200
C15 71 0 1.00P
R34 71 11 800M
*
R33 10 72 50.0
D12 70 72 DY
Q8 8 72 71 QOUTP
*
* MODELS
*
.MODEL DN1 D IS=0.166F RS=15.2 KF=80.0F AF=1.00
.MODEL DN2 D IS=0.166F RS=15.2 KF=10.0F AF=1.00
.MODEL DX D TT=200N
.MODEL DY D IS=0.609F
.MODEL DZ D IS=0.166F
*
.MODEL QINN NPN
+ IS =0.166F    BF =3.239E+02 NF =1.000E+00
+ IKF=2.462E-02 ISE=2.956E-17 NE =1.197E+00 BR =3.719E+01
+ NR =1.000E+00 IKR=3.964E-02 ISC=1.835E-19
+ NC =1.700E+00 RB =68        IRB=0.000E+00 RBM=15.1
+ RC =2.645E+01 CJE=1.632E-13 VJE=7.973E-01
+ MJE=4.950E-01 TF =56.1P     XTF=1.873E+01 VTF=2.825E+00
+ ITF=5.955E-02 PTF=12.0      CJC=1.720E-13 VJC=8.046E-01
+ MJC=4.931E-01 XCJC=171M     TR =4.212E-10 CJS=629F
+ MJS=0         KF =10.0F     AF =1.000E+00 FC =9.765E-01
*
.MODEL QOUTN NPN
+ IS =1.880E-15 BF =3.239E+02 NF =1.000E+00 VAF=8.457E+01
+ IKF=2.182E-01 ISE=2.620E-16 NE =1.197E+00 BR =3.971E+01
+ NR =1.000E+00 VAR=1.696E+00 IKR=3.513E-01 ISC=1.348E-18
+ NC =1.700E+00 RB =57.7      IRB=0.000E+00 RBM=51.7
+ RC =3.738E+00 CJE=1.408E-12 VJE=7.973E-01
+ MJE=4.950E-01 TF =1.871E-11 XTF=1.873E+01 VTF=2.825E+00
+ ITF=5.278E-01 PTF=12.0      CJC=1.224E-12 VJC=8.046E-01
+ MJC=4.931E-01 XCJC=800M     TR =1.296E-09 CJS=1.496E-12
+ MJS=4.105E-01 KF =10.0F     AF =1.000E+00 FC =9.765E-01
*
.MODEL QINP PNP
+ IS =0.166F    BF =7.165E+01 NF =1.000E+00
+ IKF=1.882E-02 ISE=6.380E-16 NE =1.366E+00 BR =1.833E+01
+ NR =1.000E+00 IKR=1.321E-01 ISC=3.666E-18
+ NC =1.634E+00 RB =28.8      IRB=0.000E+00 RBM=7.6
+ RC =3.739E+01 CJE=1.588E-13 VJE=7.975E-01
+ MJE=5.000E-01 TF =92.1P     XTF=5.386E+00 VTF=2.713E+00
+ ITF=5.084E-02 PTF=12.0      CJC=2.725E-13 VJC=7.130E-01
+ MJC=4.200E-01 XCJC=170M     TR =7.500E-11 CJS=515F
+ MJS=0         KF =10.0F     AF =1.000E+00 FC =8.803E-01
*
.MODEL QOUTP PNP
+ IS =1.140E-15 BF =7.165E+01 NF =1.000E+00 VAF=3.439E+01
+ IKF=1.668E-01 ISE=5.655E-15 NE =1.366E+00 BR =1.953E+01
+ NR =1.000E+00 VAR=1.805E+00 IKR=1.171E+00 ISC=3.173E-17
+ NC =1.634E+00 RB =53.2      IRB=0.000E+00 RBM=50.9
+ RC =6.213E+00 CJE=1.408E-12 VJE=7.975E-01
+ MJE=5.000E-01 TF =3.070E-11 XTF=5.386E+00 VTF=2.713E+00
+ ITF=4.506E-01 PTF=12.0      CJC=1.939E-12 VJC=7.130E-01
+ MJC=4.200E-01 XCJC=900M     TR =1.850E-10 CJS=2.351E-12
+ MJS=3.950E-01 KF =10.0F     AF =1.000E+00 FC =8.803E-01
*
.ENDS CLC532
